US04827004
A solution of 3.5 g of methyl N-acetyl-3-[[(6Z,10Z)-12-hydroxy-2,6,10-trimethyl-3-oxo-6,10-dodecadienyl]thio]alaninate dissolved in 15 mil of methylene chloride is treated at 0° with 39 ml of pyridine and 30 ml of acetic anhydride. The solution is stirred at room temperature for 20 hours. After removing the solvent the residue is taken up three times in toluene and freed from solvent each time on a rotary evaporator. The crude product is chromatographed on silica gel with ether-methanol 50:1. There is obtained methyl N-acetyl-3-[[(6Z,10Z)-12-acetoxy-2,6,10-trimethyl-3-oxo-6,10-dodecadienyl]thio]alaninate which exhibits the following absorption bands in the IR spectrum: 1738 cm-1, 1713 cm-1, 1664 cm-1, 1438 cm-1, 1412 cm-1, 1236 cm-1, 1117 cm-1.

reactant | methyl N-acetyl-3-[[(6Z,10Z)-12-hydroxy-2,6,10-trimethyl-3-oxo-6,10-dodecadienyl]thio]alaninate | 3.5 g | C(C)(=O)N[C@@H](CSCC(C(CC\C(=C/CC\C(=C/CO)\C)\C)=O)C)C(=O)OC | C21H35NO5S
reactant | pyridine | 39 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 30 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | methyl N-acetyl-3-[[(6Z,10Z)-12-acetoxy-2,6,10-trimethyl-3-oxo-6,10-dodecadienyl]thio]alaninate | C(C)(=O)N[C@@H](CSCC(C(CC\C(=C/CC\C(=C/COC(C)=O)\C)\C)=O)C)C(=O)OC | C23H37NO6S
